US08212032B2
Step 2: 4-(aminomethyl)-3-chlorobenzonitrile
To a mixture of 4-(bromomethyl)-3-chlorobenzonitrile (11 g, 49 mmol, 1.0 equiv) and 6 M NH3 in methanol (200 mL) was stirred at 18° C. for 17 h. Aqueous HCl (1 M, 200 mL) was added, and the water layer was washed with ethyl acetate. The aqueous phase was adjusted to pH 9-10 with 1 M NaOH and extracted with ethyl acetate. The organic layer was washed with water, dried with magnesium sulfate, and concentrated. The residue was purified on silica gel to afford 2.71 g of the title compound. MS (ES+): m/e 167.0 [M+H]+.

reactant | 4-(bromomethyl)-3-chlorobenzonitrile | 49 mmol, 11 g, 1.0 equiv | BrCC1=C(C=C(C#N)C=C1)Cl | C8H5BrClN
reactant | NH3 | 6 M | N | H3N
reactant | HCl | 1 M, 200 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
product | 4-(aminomethyl)-3-chlorobenzonitrile | 2.71 g | NCC1=C(C=C(C#N)C=C1)Cl | C8H7ClN2
